US08703805B2
N-[5-[5-(3-Methanesulfonyl-phenyl)-thiophen-2-yl]-1-(2-trifluoromethyl-phenyl)-1H-pyrazole-3-carbonyl]-methanesulfonamide
To round bottom flask was added 5-[5-(3-Methanesulfonyl-phenyl)-thiophen-2-yl]-1-(2-trifluoromethyl-phenyl)-1H-pyrazole-3-carboxylic acid (302 mg, 615 mmol), oxalyl chloride (0.54 mL), anhydrous DCM (10 mL), and anhydrous DMF (100 μL). The reaction solution was stirred at room temperature for approximately 1 hr prior to concentration in vacuo. The resulting crude acid chloride intermediate was used in the next reaction without further purification. To a glass vial was added acid chloride (615 μmol theoretical), methanesulfonamide (117 mg, 1.23 mmol), 1,2-dichloroethane (9 mL), DIEA (200 μL), and DMAP (10 mg). The reaction solution was stirred at 45° C. for 3 hrs. The reaction solution was diluted with DCM (60 mL) and transferred to a separatory funnel. The solution was washed with aq NH4Cl (50 mL×2) and with aq NaCl (50 mL). The organic phase was dried over Na2SO4, filtered, concentrated on the Rotavapor and chromatographed through a 25 g SiO2 column using a mobile phase gradient of 100% Hx to 70% EtOAc to afford 182 mg (52% yield) of the title compound. 1H NMR (400 MHz, CDCl3) δ 9.07 (s, 1H), 8.02 (s, 1H), 7.91 (m, 1H), 7.84 (d, 1H), 7.74-7.80 (m, 2H), 7.69 (d, 1H), 7.55 (t, 1H), 7.48 (m, 1H), 7.23 (s, 1H), 7.21 (d, 1H), 6.77 (d, 1H), 3.42 (s, 3H), 3.07 (s, 3H); 19F NMR (400 MHz, CDCl3) δ −60.5 ppm MS (ES) 570.2 [M+H]+.

reactant | 5-[5-(3-Methanesulfonyl-phenyl)-thiophen-2-yl]-1-(2-trifluoromethyl-phenyl)-1H-pyrazole-3-carboxylic acid | 615 mmol, 302 mg | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C(S1)C1=CC(=NN1C1=C(C=CC=C1)C(F)(F)F)C(=O)O | C22H15F3N2O4S2
reactant | oxalyl chloride | 0.54 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methanesulfonamide | 1.23 mmol, 117 mg | CS(=O)(=O)N | CH5NO2S
reactant | DIEA | 200 μL | CCN(C(C)C)C(C)C | C8H19N
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 9 mL | ClCCCl | C2H4Cl2
solvent | DMF | 100 μL | CN(C)C=O | C3H7NO
product | N-[5-[5-(3-Methanesulfonyl-phenyl)-thiophen-2-yl]-1-(2-trifluoromethyl-phenyl)-1H-pyrazole-3-carbonyl]-methanesulfonamide | 182 mg, 52% yield | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C(S1)C1=CC(=NN1C1=C(C=CC=C1)C(F)(F)F)C(=O)NS(=O)(=O)C | C23H18F3N3O5S3
